### PR TITLE
remove duplicated lemma

### PR DESCRIPTION
**Pull request by affeldt-aist**

### CODE REVIEW

File: theories/topology.v [hunk 1]
```diff
@@ -3747,9 +3747,6 @@ move=> le12 y. case: comparableP le12 => [lte12 _|//|//|->//].
 by rewrite -[e2](subrK e1); apply/ball_triangle/ballxx; rewrite subr_gt0.
 Qed.
 
-Lemma ball_le (x : M) (e1 e2 : R) : (e1 <= e2) -> ball x e1 `<=` ball x e2.
-Proof. by move=> /ball_ler. Qed.
```
Comment (CohenCyril) [inline theories/topology.v:3751]: The lemma `ball_ler` looks misnamed to me. I guess it should be `le_ball`.

**Review by CohenCyril — APPROVED** [review]
